US03932465
A solution of 0.8 g of freshly distilled 1-methoxynaphthalene in 2.2 ml of trifluoroacetic acid is mixed with 0.4 g of 3-acetoxymethyl-7-(N-phenylacetyl-amino)-ceph-2-em-4ξ-carboxylic acid and the resulting solution is left to stand for 15 minutes at room temperature. It is then diluted with an equal amount of toluene and evaporated to dryness under reduced pressure. The residue is taken up in 50 ml of acetic acid ethyl ester and 30 ml of a 10% strength aqueous dipotassium hydrogen phosphate solution. The whole is thoroughly shaken, the organic layer is separated off and the aqueous phase is extracted with two 50 ml portions of acetic acid ethyl ester. The aqueous phase is covered with 50 ml of acetic acid ethyl ester and the pH value is adjusted to 2 by adding 2% strength aqueous phosphoric acid. After vigorous shaking, the organic solution is separated off, and the aqueous phase is twice extracted with 50 ml portions of acetic acid ethyl ester. The combined organic extracts are washed three times with 50 ml portions of a saturated aqueous sodium chloride solution, dried over anhydrous sodium sulphate, filtered and evaporated to dryness under reduced pressure. 3-(4-Methoxy-1-naphthylmethyl)-7-(N-phenylacetylamino)-ceph-2-em-4ξ-carboxylic acid is obtained as an oily residue, which on trituration with acetic acid ethyl ester crystallises and after recrystallisation from methanol melts at 196°C; thin layer chromatogram (silica gel): Rf = 0.71 (system n-butanol/acetic acid/water, 75:7.5:21), Rf = 0.76 (system n-butanol/acetic acid/water, 67:10:23) and Rf = 0.52 (system n-butanol/ethanol/water, 40:10:50); ultraviolet absorption spectrum (in methanol): λmax = 225 mμ (ε = 17,600) and 298 mμ (ε = 8300) and shoulder at 308 mμ (ε = 6400) and 322 mμ (ε = 3950); infrared absorption spectrum (in mineral oil): characteristic bands at 3.02μ, 5.69μ, 5.77μ, 6.06μ and 6.59μ.

reactant | 1-methoxynaphthalene | COC1=CC=CC2=CC=CC=C12 | C11H10O
reactant | 3-acetoxymethyl-7-(N-phenylacetyl-amino)-ceph-2-em-4ξ-carboxylic acid | 0.4 g | C(C)(=O)OCC1=CS[C@H]2N(C1C(=O)O)C(C2NC(CC2=CC=CC=C2)=O)=O | C18H18N2O6S
solvent | trifluoroacetic acid | 2.2 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-(4-Methoxy-1-naphthylmethyl)-7-(N-phenylacetylamino)-ceph-2-em-4ξ-carboxylic acid | COC1=CC=C(C2=CC=CC=C12)CC1=CS[C@H]2N(C1C(=O)O)C(C2NC(CC2=CC=CC=C2)=O)=O | C27H24N2O5S
